US05756667
Acetylproline (Sigma Chemical Co.);
ammonium thiocyanate (BDH, Analar), Aristar acetic acid (BDH), eptide synthesis grades of trifluoroacetic acid and acetic anhydride (Applied Biosystems) were used without further purification. Reagents for amino acid analysis of phenylthiocarbamyl amino acids were all of the highest possible purity (Inglis et al Biochem. Biophys. Methods 15:249, 1988). Pierce 6M constant boiling HC1 and Analar phenol (BDH) were used for hydrolysis and N,N-diisopropylethylamine (DIEA, Peptide Synthesis Grade, Applied Biosystems) replaced triethylamine in the drying reagent and in the coupling buffer.

reactant | ammonium thiocyanate | [S-]C#N.[NH4+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Acetylproline | C(C)(=O)N1[C@H](C(=O)O)CCC1 | C7H11NO3
